US09260375B2
2-ethyl-3-methylmaleic acid dimethyl ester
To a suspension of bromo(dimethylsulfide)copper (I) (1.08 g, 5.25 mmol) in anhdrous tetrahydrofuran (24 mL), a 1.06 M ethylmagnesium chloride-tetrahydrofuran solution (4.8 mL, 5.1 mmol) was added dropwise under vigorous stirring at −50° C. The mixture was stirred at the same temperature for 2 h, and further stirred at −78° C. for 5 min. Then, a solution of dimethyl acetylenedicarboxylate (563 mg, 3.96 mmol) in tetrahydrofuran (8 mL) was added dropwise to the mixture. After 40 min, a solution of 4 mL of hexamethylphosphoric triamide in tetrahydrofuran (4 mL) was added dropwise, and a solution of methyl iodide (1.44 g, 10.1 mmol) in tetrahydrofuran (8 mL) was further added dropwise. After stirring for 20 min, the reaction mixture was warmed up to room temperature. An aqueous solution of saturated ammonium chloride (10 mL, adjusted to pH 8 with aqueous ammonia) was added at −20° C., and the temperature was again raised to room temperature. The reaction solvent was evaporated under reduced pressure, and diethyl ether and water were added to separate the phases. The aqueous layer was extracted three times with diethyl ether, and the combined organic layer was washed with an aqueous solution of saturated ammonium chloridewater, and brine. The residue obtained by concentrating the organic layer under reduced pressure was subjected to silica gel column chromatography (hexane-ethyl acetate 9:1) to give 98.2 mg of the title compound as a syrup (yield: 14%).

reactant | ethylmagnesium chloride tetrahydrofuran | 5.1 mmol, 1.06 M, 4.8 mL | C(C)[Mg]Cl.O1CCCC1
reactant | dimethyl acetylenedicarboxylate | 3.96 mmol, 563 mg | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | methyl iodide | 10.1 mmol, 1.44 g | CI | CH3I
reactant | ammonium chloride | 10 mL, pH 8 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | bromo(dimethylsulfide)copper (I) | 5.25 mmol, 1.08 g | CSC.[Cu+].[Br-]
solvent | hexamethylphosphoric triamide | 4 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-ethyl-3-methylmaleic acid dimethyl ester | 98.2 mg, yield: 14% | COC(\C(=C(/C(=O)OC)\C)\CC)=O | C9H14O4
